data/mechanism_extracts/BeilsteinJOC/10.3762_bjoc.18.112.json
{"doi": "10.3762_bjoc.18.112", "journal": "BeilsteinJOC", "is_review": false, "rxn_class_summary": "Radical cation Diels–Alder reaction of arylidene cycloalkanes with 2,3-dimethyl-1,3-butadiene under TiO2 photoelectrochemical or electrochemical conditions to give spirocyclic cyclohexenes", "mechanism_family": ["radical_cation", "radical_anodic", "photoredox_combined", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich arylalkene (anethole/arylidene cycloalkane) to its radical cation, which acts as the dienophile; the cyclohexene radical cation intermediate is then reduced back (at cathode or by another substrate molecule in a chain) to give the neutral cycloadduct", "key_intermediates": [{"name": "arylalkene radical cation (dienophile)", "smiles": null, "role": "reactive"}, {"name": "distonic cyclohexene radical cation (after C–C bond formation with diene)", "smiles": null, "role": "transient"}, {"name": "neutral cyclohexene cycloadduct", "smiles": null, "role": "reactive"}], "electron_flow": "Anode (or photoexcited TiO2 hole) oxidizes the electron-rich styrene/arylidene cycloalkane to a radical cation, which undergoes stepwise [4+2] addition with 2,3-dimethyl-1,3-butadiene to give a cyclohexene radical cation; back-electron transfer (from cathode, TiO2 conduction-band electron, or a neutral substrate in a chain) regenerates the neutral Diels–Alder adduct.", "rate_determining_step": null, "probe_reagents": [{"name": "β-methylstyrene (non-substituted dienophile control)", "smiles": "CC=Cc1ccccc1", "purpose": "other", "observation": "Productive under TiO2 photoelectrochemical conditions (61%) but 0% under simple electrochemical conditions, showing photoelectrochemistry enables otherwise unreactive substrates"}, {"name": "β-methylanethole (1)", "smiles": "COc1ccc(C=C(C)C)cc1", "purpose": "other", "observation": "Trace under TiO2/UV (9%) but 43% under electrochemistry; β-substitution introduces steric hindrance disfavoring the radical cation cycloaddition"}, {"name": "arylidene cyclopropane (4)", "smiles": null, "purpose": "other", "observation": "Totally unreactive under both conditions, attributed to instability/strain of the proposed tertiary radical cation"}, {"name": "arylidene cyclobutane (5)", "smiles": null, "purpose": "other", "observation": "Spiro adduct 9 formed in 61% (photo) / 66% (EC), showing reduced steric hindrance vs gem-dimethyl analog enables reaction"}, {"name": "arylidene cyclopentane (6) and cyclohexane (7)", "smiles": null, "purpose": "other", "observation": "Less productive (10: 0–5%; 11: 31–56%), indicating ring-size dependent steric/electronic effects"}], "evidence_types_used": ["on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "weak", "notes": "Mechanism (Figure 1) is the established radical cation Diels–Alder pathway adopted from prior literature; no direct mechanistic probes (TEMPO, KIE, CV, DFT) were performed in this work. The study focuses on substrate scope to test steric/electronic effects of β-substitution. TiO2 photoelectrochemistry is invoked as advantageous because both single-electron oxidation and reduction occur at the same semiconductor surface, enabling a productive chain/back-ET pathway not accessible under simple constant-potential electrolysis for some substrates."}
